US08633173B2
[8-(4-Methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridine (0.070 g, 0.21 mmol) and 3-(4-methylpiperazin-1-yl)aniline (0.056 g, 0.29 mmol) in a manner analogous to Example 2d. Product was isolated as a tan solid (56 mg, 54%). MP=Softened at 114-119° C. then melted at 199-201° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.55 (s, 1H), 8.76 (d, J=6.56 Hz, 1H), 7.89 (d, J=8.00 Hz, 2H), 7.50 (d, J=7.69 Hz, 1H), 7.26 (s, 1H), 7.21 (d, J=8.04 Hz, 2H), 7.10-7.11 (m, 3H), 6.46 (d, J=6.60 Hz, 1H), 3.20 (s, 3H), 3.04 (s, 4H), 2.42 (s, 4H), 2.22 (s, 3H). MS=479 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridine | 0.21 mmol, 0.070 g | ClC1=NN2C(C(=CC=C2)OC2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O3S
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.29 mmol, 0.056 g | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
product | [8-(4-Methanesulfonyl-phenoxy)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(OC=2C=3N(C=CC2)N=C(N3)NC3=CC(=CC=C3)N3CCN(CC3)C)C=C1 | C24H26N6O3S
